US07732596B2
2-(2,3,4,6-Tetra-O-benzyl-β-D-glucopyranosyl)-7-(4-methylbenzyl)benzo[b]thiophene
To a solution of 2,3,4,6-tetra-O-benzyl-1-[7-(4-methylbenzyl)benzo[b]thiophen-2-yl]-D-glucopyranose (1.2 g) and triethylsilane (0.49 mL), in acetonitrile (15 μL) was added boron trifluoride diethyl ether complex (2.0 mL) at −20° C., and the mixture was stirred for 1 hour. A saturated potassium carbonate aqueous solution was added to the mixture, and the mixture was extracted with diethyl ether. The organic layer washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=6/1) to give the title compound (0.95 g).

reactant | 2,3,4,6-tetra-O-benzyl-1-[7-(4-methylbenzyl)benzo[b]thiophen-2-yl]-D-glucopyranose | 1.2 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC2=C(S1)C(=CC=C2)CC2=CC=C(C=C2)C | C50H48O6S
reactant | triethylsilane | 0.49 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 μL | C(C)#N | C2H3N
product | 2-(2,3,4,6-Tetra-O-benzyl-β-D-glucopyranosyl)-7-(4-methylbenzyl)benzo[b]thiophene | 0.95 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC2=C(S1)C(=CC=C2)CC2=CC=C(C=C2)C | C50H48O5S
